US05084463
Step 3) Preparation of 2-(Methylaminomethyl)benzimidazole
2-Chloromethylbenzimidazole (3.00 g, 18.01 mmol) was dissolved in aqueous methylamine (50 mL, 40 wt % in H2O) at 10° C. under N2. After 30 minutes, the reaction mixture was warmed to room temperature and stirred for 4 hours. Water was added and the mixture extracted with methylene chloride. The organic phase was dried (MgSO4) and concentrated to afford crude product which was purified by HPLC (gradient methanol/dichloromethane) to afford 0.650 g (22%) of pure product as a tan solid.

reactant | 2-Chloromethylbenzimidazole | 18.01 mmol, 3.00 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | Water | O | H2O
reactant | methylamine | 50 mL | CN | CH5N
product | 2-(Methylaminomethyl)benzimidazole | 0.650 g, 22% | CNCC=1NC2=C(N1)C=CC=C2 | C9H11N3
